US07465744B2
1-(2-{3-[(4-Methyl-5-pyridin-3-yl-4H-1,2,4-triazol-3-yl)thio]propyl}-2,3-dihydro-1H-isoindol-5-yl)propan-1-one
The title compound was prepared in analogy to method 1.5 from 4-methyl-5-pyridin-3-yl-4H-1,2,4-triazole-3-thiol (1.43 mmol, 0.33 g) and 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one (1.43 mmol, 0.36 g; preparation in analogy to 1.4 from isoindoline as disclosed in WO 0125200). Yield: 0.04 g.

reactant | 4-methyl-5-pyridin-3-yl-4H-1,2,4-triazole-3-thiol | 1.43 mmol, 0.33 g | CN1C(=NN=C1C=1C=NC=CC1)S | C8H8N4S
reactant | 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one | 1.43 mmol, 0.36 g | ClCCCN1CC2=CC=C(C=C2C1)C(CC)=O | C14H18ClNO
product | 1-(2-{3-[(4-Methyl-5-pyridin-3-yl-4H-1,2,4-triazol-3-yl)thio]propyl}-2,3-dihydro-1H-isoindol-5-yl)propan-1-one | CN1C(=NN=C1C=1C=NC=CC1)SCCCN1CC2=CC=C(C=C2C1)C(CC)=O | C22H25N5OS
